US05041458
Preparation of N-[2-(4-chlorophenoxy)-1-(4-fluorophenyl)ethylidene]-1H-1,2,4-triazol-1-amine
To a stirred solution of 1-amino-1H-1,2,4-triazole (75% purity, 5.6 g, 0.05 mmol) and 2-(4-chlorophenoxy)-4'-fluoroacetophenone (13.2 g, 0.05 mmol) in 100 mL dry toluene is added a catalytic amount (1.0 g) p-toluene sulfonic acid. The mixture is heated at reflux with azeotropic removal of water for 4 days. Solvent is evaporated and the residue taken up in 200 mL ethyl acetate. The organic solution is washed with 2×100 mL 10% aqueous Na2CO3 and 1×100 mL brine. The dried (MgSO4) solution is filtered and concentrated to give the desired product which can be purified by chromatography or crystallization from an appropriate solvent.

reactant | 1-amino-1H-1,2,4-triazole | 0.05 mmol, 5.6 g | NN1N=CN=C1 | C2H4N4
reactant | 2-(4-chlorophenoxy)-4'-fluoroacetophenone | 0.05 mmol, 13.2 g | ClC1=CC=C(OCC(=O)C2=CC=C(C=C2)F)C=C1 | C14H10ClFO2
reactant | p-toluene sulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-chlorophenoxy)-1-(4-fluorophenyl)ethylidene]-1H-1,2,4-triazol-1-amine | ClC1=CC=C(OCC(C2=CC=C(C=C2)F)=NN2N=CN=C2)C=C1 | C16H12ClFN4O
